US08048897B2
(1) Synthesis of 2-(3,4-Dimethoxybenzyl)phenol
In a nitrogen stream, an n-butyllithium hexane solution (1.59 M, 4.4 mL) was added dropwise to a solution of 1-benzyloxy-2-bromobenzene (1.74 g, 6.61 mmol) in THF (30 mL) at −78° C. and the mixture solution was stirred at the same temperature for one hour. To this solution, a solution of 3,4-dimethoxybenzaldehyde (1.00 g, 6.02 mmol) in THF (8 mL) was added dropwise at −78° C. The reaction mixture was stirred at the same temperature for 1.5 hours, and then a saturated ammonium chloride aqueous solution was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure to obtain a crude product (2.38 g). The obtained crude product was dissolved in methanol (20 mL) and a 20% palladium hydroxide catalyst (196 mg) was added and furthermore 2N—HCl (30 μL) was added thereto. The mixture solution was stirred under a hydrogen atmosphere for 23 hours, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (653 mg, 44%).

reactant | n-butyllithium hexane | 1.59 M, 4.4 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyloxy-2-bromobenzene | 6.61 mmol, 1.74 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | 3,4-dimethoxybenzaldehyde | 6.02 mmol, 1.00 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 30 μL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide | 196 mg | [OH-].[Pd+2].[OH-]
product | 2-(3,4-Dimethoxybenzyl)phenol | 653 mg, 44% | COC=1C=C(CC2=C(C=CC=C2)O)C=CC1OC | C15H16O3
